US07820837B2
ethyl 8-(benzyloxy)-2,3-dihydro-1-benzoxepine-4-carboxylate
Ethyl 4-[5-(benzyloxy)-2-formylphenoxy]butyrate (8.2 g) was dissolved in diethyl carbonate (100 mL), and potassium t-butoxide (4 g) was added, and the mixture was stirred overnight at room temperature. 1 M hydrochloric acid was added, and the mixture was concentrated and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over magnesium sulfate. The solvent was evaporated to give the title compound (5.2 g) as crude crystals. A part thereof was recrystallized from ethyl acetate-hexane to give crystals.

reactant | Ethyl 4-[5-(benzyloxy)-2-formylphenoxy]butyrate | 8.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(OCCCC(=O)OCC)C1)C=O | C20H22O5
reactant | potassium t-butoxide | 4 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | diethyl carbonate | 100 mL | C(OCC)(OCC)=O | C5H10O3
product | ethyl 8-(benzyloxy)-2,3-dihydro-1-benzoxepine-4-carboxylate | 5.2 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(CCO2)C(=O)OCC)C=C1 | C20H20O4
